US05597848
Methyl 4-[4-(Phenylacetyl)phenyl]butyrate
To a solution of 25.0 g of methyl 4-phenylbutyrate in 100 ml of carbon disulfide, 37.3 g of anhydrous aluminium chloride was added and then a solution of 43.3 g of phenylacetyl chloride in 25 ml of carbon disulfide was added dropwise, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into ice-water and extracted with methylene chloride. The methylene chloride layer was washed with aqueous potassium carbonate solution, dried, and then the solvent was removed. The residue was purified by column chromatography on silica gel (methylene chloride:n-hexane=2:1→methylene chloride) to afford 27.3 g of colorless crystals. Recrystallization from isopropyl ether gave colorless flakes, mp 54°~54.5° C.

reactant | methyl 4-phenylbutyrate | 25.0 g | C1(=CC=CC=C1)CCCC(=O)OC | C11H14O2
reactant | aluminium chloride | 37.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenylacetyl chloride | 43.3 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
solvent | carbon disulfide | 25 ml | C(=S)=S | CS2
product | Methyl 4-[4-(Phenylacetyl)phenyl]butyrate | 27.3 g | C1(=CC=CC=C1)CC(=O)C1=CC=C(C=C1)CCCC(=O)OC | C19H20O3
